US05244889
Benzyl (3R)-6-(acetylthiomethyl)-5-oxo-1-thia-4-azacyclotetradecane-3-carboxylate (Isomer A), (0.11 g, 0.25 mmol) is dissolved in nitrogen degassed tetrahydrofuran (5 ml) and water (1 ml). Lithium hydroxide monohydrate (0.032 g, 0.75 mmol) is added and the mixture is stirred for 3 hours at room temperature. The mixture is poured into 1N hydrochloric acid and extracted with ethyl acetate (2×50 ml). The combined organic layers are washed with brine (1×50 ml), dried (MgSO4) and the solvent is evaporated. The product is triturated from diethyl ether/hexane (1:1) to give (3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotetradecane-3-carboxylic acid (Isomer A), m.p. 165°-168° C.

reactant | Benzyl (3R)-6-(acetylthiomethyl)-5-oxo-1-thia-4-azacyclotetradecane-3-carboxylate | C(C)(=O)SCC1C(N[C@@H](CSCCCCCCCC1)C(=O)OCC1=CC=CC=C1)=O | C23H33NO4S2
reactant | Lithium hydroxide monohydrate | 0.75 mmol, 0.032 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
product | (3R)-6-mercaptomethyl-5-oxo-1-thia-4-azacyclotetradecane-3-carboxylic acid | SCC1C(N[C@@H](CSCCCCCCCC1)C(=O)O)=O | C14H25NO3S2
